US06177440B1
A solution of the {9-[(3-fluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester (40.0 mg, 0.089 mM) in 2 mL of trifluoroacetic acid was stirred at room temperature for 5 hours. The solvent was removed in vacuo. The residue was triturated with ethyl ether, then dried in vacuo to afford 35.0 mg (100%) of the {9-[(3-fluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid as a white powder. 1H NMR (DMSO-d6) δ 13.0 (br s, 1H), 7.75 (s, 1H), 7.6 (d, 1H, J=8 Hz), 7.5-7.25 (m, 5H), 7.2-6.8 (m, 4H), 6.6 (d, 1H, J=8 Hz), 5.7 (s, 2H), and 4.8 (s, 2H). IR (KBr, cm−1) 3423, 3400, 1736, 1637, 1615, 1589, 1499, 1487, 1450, 1436, 1331, 1250, and 1156. MS (ES) m/e 391, 393.

reactant | {9-[(3-fluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester | 0.089 mM, 40.0 mg | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC(C)(C)C)C(N)=O | C26H25FN2O4
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {9-[(3-fluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid | 35.0 mg, 100% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)O)C(N)=O | C22H17FN2O4
